US07504403B2
3-(3,4-Dimethyl-phenyl)-3-oxo-propionic acid methyl ester:
To a stirring solution of 3,4-dimethylacetophenone (1.0 g, 6.8 mmol) in tetrahydrofuran (10 ML) at 0° C. under an atmosphere of nitrogen was added potassium hexamethyldisilylzide (1.46 g, 6.8 mmol). Resulting suspension was stirred for 10 min and dimethylcarbonate (0.58 mL, 6.8 mmol) added. Reaction stirred for 16 h warming to room temperature then poured onto wet ice (50 mL)/ hydrochloric acid (5 mL). Product extracted with ethyl acetate (50 mL) and organic washed with saturated sodium chloride then dried over magnesium sulfate. Product isolated as an amber oil after removal of solvent under vacuum. M+1=207.

reactant | 3,4-dimethylacetophenone | 6.8 mmol, 1.0 g | CC1=C(C=C(C=C1)C(=O)C)C | C10H12O
reactant | potassium | [K] | K
reactant | dimethylcarbonate | 6.8 mmol, 0.58 mL | COC(OC)=O | C3H6O3
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(3,4-Dimethyl-phenyl)-3-oxo-propionic acid methyl ester | COC(CC(=O)C1=CC(=C(C=C1)C)C)=O | C12H14O3
